US05521173
4-(Phenylthio)benzoic Acid
The conditions to prepare Reference Example 32 c1384847 are used with 6.0 g of mercaptobenzene, 12.22 g of potassium t-butoxide and 13.15 g of 4-bromobenzoic acid to give 12.0 g of the desired product as a solid, m.p. 101°-103° C.; M+H=231.

reactant | mercaptobenzene | 6.0 g | SC1=CC=CC=C1 | C6H6S
reactant | potassium t-butoxide | 12.22 g | CC(C)([O-])C.[K+]
reactant | 4-bromobenzoic acid | 13.15 g | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
product | 4-(Phenylthio)benzoic Acid | 12.0 g | C1(=CC=CC=C1)SC1=CC=C(C(=O)O)C=C1 | C13H10O2S
